* ============================================================
* Trip-module sense input -- NEW pin, not in the OEM harness
* ============================================================
* Spec sec.3 "What this ECU must do about the trip module":
* U12 closed badly on 18 Sep 2026 -- the fitted DSE4522's fuel
* relay only signals, it does not remove power, so nothing
* external to this ECU can stop fuelling without this ECU's
* cooperation. A standalone overspeed trip module is therefore
* mandatory again, its contacts in series with the fuel metering
* unit's own battery feed through fuse 8F1 -- a power path this
* file does NOT touch. This file is the ECU's SENSE of that
* module's state: one input telling firmware whether the trip
* contacts are open or closed, so a trip is reported as a trip
* rather than read as a fuelling anomaly and compensated for
* (spec sec.3's own wording).
*
* PRECEDENT, AND WHY IT IS NOT ENOUGH HERE. discrete_input.cir
* conditions switched-battery inputs (pins 20/24/71) with a
* 47k/68k bias into a 3.0 V zener clamp -- proven, and reused
* below almost unchanged. But that file's own RESULT NOTE records
* a limitation, sourced to spec sec.2.4: an open wire on those
* inputs reads identically to "not asserted", and it is ACCEPTED
* as undetectable because changing the sense would break harness
* compatibility with the OEM wiring.
*
* THIS INPUT HAS NO OEM HARNESS. There is no compatibility to
* break -- spec sec.3 says so explicitly ("a new connector
* position... it does not exist in the OEM harness"). So the
* constraint that justified accepting the limitation for 20/24/71
* does not apply here, and the consequence of inheriting it
* anyway is worse: this input reports a SAFETY DEVICE's state, not
* a button. An undetectable broken wire on pin 24 (override
* switch) costs a missed override. An undetectable broken wire
* HERE reads "not tripped" continuously and PERMANENTLY, including
* at the exact moment the module actually trips -- which is the
* one moment the spec exists to catch: "producing a fault the ECU
* should recognise and report... rather than reading it as a
* fuelling anomaly." A wire that silently defeats its own
* diagnostic input the day it is needed is a worse failure than
* an unbuilt input, because it is invisible until the trip
* happens. CONCLUSION: this input needs open-wire detection, and
* nothing about the harness forces accepting the limitation
* discrete_input.cir accepts. Built below.
*
* TOPOLOGY -- a supervised (end-of-line-resistor) loop, not a
* plain switched-battery contact. The trip module's status is
* reported through an AUXILIARY contact (separate from the power
* contact in series with 8F1) -- normally-closed, so it reads
* "closed" when healthy/not-tripped and opens on a trip. That
* contact is wired in PARALLEL with Rt, an end-of-line resistor
* physically located AT OR NEAR THE TRIP MODULE, at the far end of
* the new harness run -- placement matters: a resistor at the ECU
* end could not distinguish "wire cut" from "resistor is now the
* only path", but one at the module end means EVERY break in the
* run between the module and the ECU removes Rt from the circuit
* exactly the same way an open contact does not. Three states,
* three distinguishable ADC bands on the SAME 47k/68k/zener
* front-end discrete_input.cir already validates:
*
*   contact CLOSED  (healthy, not tripped) -- Rt shorted, full
*     switched battery reaches R5/R6/zener exactly as in
*     discrete_input.cir: clamped ~2.86-2.95 V, flat across 6-40 V.
*   contact OPEN    (tripped)              -- Rt (1.2 Mohm) now in
*     series before R5/R6. This is deliberately NOT clamped: at
*     1.2M in series with a 115k divider, the zener never reaches
*     its conduction knee anywhere in 6-40 V (checked below), so
*     the reading is a plain, PREDICTABLE linear divider that
*     tracks battery voltage -- 0.31-2.07 V nominal -- clearly
*     separated from both other states across the whole range.
*   wire OPEN       (harness fault, either segment)    -- neither
*     battery nor Rt reaches the divider at all. R6 pulls the node
*     to ~0 V, same mechanism discrete_input.cir's own "switch
*     open" state uses, just now a THIRD state instead of the
*     second.
*
* This makes it an ANALOG input, not a digital one -- three bands
* need more resolution than a single GPIO threshold gives. It must
* land on an ADC-capable pin, a pin-mux consideration for whoever
* assigns the physical PTxx map (same class of open item as spec
* sec.4's pins 88/73/07/29/03/05).
*
* WHAT THIS DOES NOT SOLVE. This loop is HIGH IMPEDANCE (the same
* few-hundred-microamp class discrete_input.cir's divider already
* runs at, so Rt's effect is visible at all) rather than the
* low-impedance, milliamp-class loop industrial security/fire
* panels typically use for supervised contacts. A dedicated
* low-Z loop is far less sensitive to insulation leakage or
* connector corrosion mimicking a resistance change; this one
* reuses the existing high-Z front end on purpose (spec's own
* "check how sensor_ratiometric.cir/discrete_input.cir conditions
* a similar signal rather than inventing a new front-end"), and
* that reuse is not free -- see the TOLERANCE section below for
* how tight the margin actually is at the low end of the range.
* ============================================================

.model DZ3V0 D(Is=1e-14 N=1 Rs=5 BV=3.0 IBV=5e-3)
.model SWC   SW(Ron=0.05 Roff=1e9 Vt=2.5 Vh=0.2)

* ---- network A: healthy / not tripped -- contact closed, shorts
* Rt, so this reduces exactly to discrete_input.cir's own divider ----
Vh    h  0  DC 12
R5h   h  nh 47k
R6h   nh 0  68k
D1h   0  nh DZ3V0

* ---- network B: tripped -- contact open, Rt (1.2 Mohm, INFERRED,
* no trip module part chosen) in series ahead of the same divider ----
Vt    t   0   DC 12
Rt    t   mt  1.2meg
R5t   mt  nt  47k
R6t   nt  0   68k
D1t   0   nt  DZ3V0

* ---- network C: wire fault -- neither the contact nor Rt reaches
* the divider at all (a break anywhere in the harness run looks
* identical, by construction of Rt's placement at the module end) ----
R6c  nc 0 68k
D1c  0  nc DZ3V0

.control
dc Vh 6 40 0.2
wrdata trip_healthy.dat v(nh)

dc Vt 6 40 0.2
wrdata trip_tripped.dat v(nt)

op
wrdata trip_wirefault.dat v(nc)
.endc

* ============================================================
* NETWORK D -- contact bounce during an actual trip event. Same
* nasty bounce shape discrete_input.cir's Vtr uses (its RESULT
* NOTE: "a deliberately nasty bounce; real automotive contacts are
* usually quieter"), values inverted because here HIGH means
* CLOSED/healthy rather than asserted: starts closed, bounces, ends
* open/tripped from 4.5 ms. Sshort (across Rt) is closed while the
* control voltage is high, open while low -- so this network
* actually inserts and removes Rt dynamically, exercising the same
* filter cap (C1, 220 nF, reused from discrete_input.cir) that a
* real bouncing relay contact would drive.
* ============================================================

Vbounce vb 0 PWL(0 12  0.999m 12  1m 0  1.4m 0  1.5m 12  2.1m 12
+ 2.2m 0  2.6m 0  2.7m 12  3.3m 12  3.4m 0  3.8m 0
+ 3.9m 12  4.4m 12  4.5m 0  20m 0)

Vbat_d  bd  0  DC 12
Rt_d    bd  md 1.2meg
Sshort  bd  md vb 0 SWC
R5d     md  nd 47k
R6d     nd  0  68k
C1d     nd  0  220n
D1d     0   nd DZ3V0

.control
* 100 ms, not 30 ms: the tripped-path Thevenin resistance seen by
* C1 (~64.5 kohm, Rt in series with R5 paralleled by R6) is over
* 2x discrete_input.cir's own 27.8 kohm, so this branch settles on
* a ~14.2 ms time constant rather than that file's 6.1 ms -- 30 ms
* is barely 2 tau past the last bounce (4.5 ms) and reads well
* short of steady state, checked and corrected after a first pass
* at 30 ms showed the "settled" figure still visibly drifting.
tran 10u 100m
wrdata trip_bounce.dat v(nd) v(vb)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* Three bands, read off networks A/B/C (see check output for exact
* simulated figures):
*
*     healthy (contact closed)   2.863 - 2.954 V   (flat, same
*                                                    92 mV spread
*                                                    discrete_input
*                                                    .cir's zener
*                                                    clamp gives)
*     tripped (Rt in circuit)    0.310 - 2.068 V    (linear, tracks
*                                                     Vbat -- NOT
*                                                     clamped, see
*                                                     below)
*     wire fault                 ~0 V
*
* Decision thresholds this design assumes: below 0.15 V = wire
* fault, 0.15-2.5 V = tripped, above 2.5 V = not tripped. Margins
* at nominal Rt: wire-fault/tripped boundary 0.310-0.15 = 0.160 V;
* tripped/healthy boundary 2.863-2.068 = 0.795 V. The first of
* those is the tight one -- see TOLERANCE.
*
* WHY THE TRIPPED BAND IS NOT FLAT. Rt=1.2 Mohm in series with the
* 115k divider is large enough that the zener NEVER reaches its
* conduction knee anywhere in 6-40 V -- checked directly: 2.068 V
* at 40 V is still well under the 3.0 V knee, so this branch is a
* plain resistive divider (node = Vbat*68k/(1.2M+115k)), not the
* flattened clamp discrete_input.cir's healthy state gets. That is
* deliberate, not a compromise: firmware only needs to know WHICH
* of three non-overlapping bands the ADC reading falls in, not a
* flat threshold, so an unclamped-but-bounded, monotonic band is
* sufficient and requires no new topology beyond adding Rt.
*
* CONTACT BOUNCE (network D) -- a genuine surprise checked rather
* than assumed: during the 0-4.5 ms bounce itself, the reading
* never leaves the HEALTHY band at all (stays 2.80-2.91 V). C1's
* time constant on this branch (~14.2 ms, see the .control block's
* own comment) is long next to the individual bounce pulses
* (0.1-0.6 ms), so C1 filters the chatter out almost entirely --
* the reading only starts moving toward the tripped band once the
* contact stays open CONTINUOUSLY past 4.5 ms, and settles inside
* the tripped band by t=100 ms. It never approaches the wire-fault
* band (~0 V) at any point in the run -- see check output. The
* two-state toggle a bouncing NC contact can produce (network A's
* topology vs network B's) structurally cannot reach network C's
* topology (nothing reaching the divider at all), which only a
* real harness break can -- so this result did not need to be
* checked to be true in that specific sense, but HOW CLOSE the
* bounce gets to either boundary was not obvious before simulating
* it, and the answer (not close at all) is worth having measured.
* ------------------------------------------------------------
*
* WHAT THIS MODEL DOES NOT COVER
* ------------------------------------------------------------
* - No trip module is chosen (memo 02's two costed candidates, GAC
*   SSW675 / Murphy HD9063, per docs/status.md sec.6, survive
*   costing-wise but neither's aux-contact rating or bounce
*   behaviour has been pulled). Rt=1.2 Mohm is this file's own
*   INFERRED choice, not a datasheet or standard figure -- there is
*   no EOL-resistor convention to inherit because this loop is a
*   new addition, not a copy of an existing safety-loop design.
* - This is a HIGH-IMPEDANCE loop (per the header) -- insulation
*   leakage, connector corrosion, or moisture in the new harness
*   run could shift the effective loop resistance enough to move a
*   reading across a band boundary, especially near the tight
*   wire-fault/tripped margin the TOLERANCE section below
*   quantifies. A low-impedance loop would be far more robust
*   against this and was not built, to stay inside the existing
*   front-end's component class per the task's own instruction.
* - Zener tolerance and temperature: NOT re-modelled here --
*   discrete_input.cir's own tolerance section already establishes
*   this exact zener/divider's behaviour under a +/-5% BV corner
*   (92 mV nominal spread, ~0.2-0.3 V movement at the corners), and
*   it applies unchanged to this file's healthy-state network,
*   which is electrically identical.
* - Whether the module's own aux contact is dry (needs a wetting
*   current this high-Z loop may not supply) or rated for this
*   duty at all is unknown -- no part chosen.
* - ESD at the new connector, and ADC sampling-time-vs-source-
*   impedance for the tripped state's higher (~64k) Thevenin
*   resistance, are not modelled, the same class of gap
*   sensor_ratiometric.cir's own RESULT NOTE already carries.
* ------------------------------------------------------------
* TOLERANCE
* ------------------------------------------------------------
* Network B is a plain resistor divider once Rt is in circuit (no
* zener conduction anywhere in range, confirmed above) -- like
* battery_sense.cir's and sensor_ratiometric.cir's own dividers,
* its corner behaviour follows directly from algebra and was not
* re-run in SPICE, per the precedent those files' own TOLERANCE
* sections set for exactly this situation.
*
* node = Vbat * 68k / (Rt + 115k). At Rt +/-5% (1.14M / 1.26M):
*
*     Rt = 1.14 Mohm (-5%)  at 6V: 0.325 V   at 40V: 2.167 V
*     Rt = 1.20 Mohm (this file)   0.310 V           2.068 V
*     Rt = 1.26 Mohm (+5%)  at 6V: 0.297 V   at 40V: 1.978 V
*
* THE VERDICT HINGES ON THE LOW-BATTERY / HIGH-Rt CORNER. At the
* 6 V cranking dip with Rt at +5%, the tripped band's floor is
* 0.297 V against the 0.15 V wire-fault threshold -- a 0.147 V
* margin, the tightest number in this design and about half the
* nominal-case margin (0.160 V). It still clears, but by less than
* half of what the nominal case suggests, and this is BEFORE
* stacking any harness leakage on top of it (see "what this model
* does not cover" above). At the other end, the tripped band's
* ceiling at Rt -5%, Vbat 40V is 2.167 V against the healthy
* floor's 2.863 V -- a 0.696 V margin, not the tight side.
*
* This is the opposite sensitivity direction from
* sensor_ratiometric.cir's divider tolerance (where +/-1% moved the
* clamp-clearance margin by a fraction of a percent of a much
* larger absolute margin): here a plain 5% resistor tolerance eats
* nearly half of the tightest margin in the design, because that
* margin was never large to begin with. If Rt's tolerance, or the
* real harness's leakage, turns out worse than 5%, the fix is
* either a tighter-tolerance Rt or moving the wire-fault threshold
* down (at the cost of the same margin on the other side, since
* nothing here has been re-optimized past the values stated) --
* not something this file resolves, only quantifies.
* ------------------------------------------------------------
